US06228870B1
To a solution of (4S,5R)-4-(3,4-difluorophenyl)-5-(tetrahydropyran-2-yloxymethyl)-2-oxo-oxazolidine-3-carboxylic acid {3-[4-(2-cyano-4-fluorophenyl)piperidin-1-yl]propyl}amide (122 mg, 0.20 mmol) in methanol (5 mL) was added p-toluenesulfonic acid (38 mg, 0.20 mmol). The reaction mixture was stirred at room temperature for 18 h. The volatiles were removed under reduced pressure, the residue taken up in ethyl acetate (100 mL), washed with 10% sodium carbonate solution (2×50 mL), dried over magnesium sulfate and filtered. The volatiles were removed under reduced pressure to afford (4S,5R)-4-(3,4-difluorophenyl)-5-hydroxymethyl-2-oxo-oxazolidine-3-carboxylic acid {3-[4-(2-cyano-4-fluorophenyl)piperidin-1-yl]propyl}amide. The hydrochloride salt was prepared according to standard procedures to provide a white solid.

reactant | (4S,5R)-4-(3,4-difluorophenyl)-5-(tetrahydropyran-2-yloxymethyl)-2-oxo-oxazolidine-3-carboxylic acid {3-[4-(2-cyano-4-fluorophenyl)piperidin-1-yl]propyl}amide | 0.20 mmol, 122 mg | C(#N)C1=C(C=CC(=C1)F)C1CCN(CC1)CCCNC(=O)N1C(O[C@H]([C@@H]1C1=CC(=C(C=C1)F)F)COC1OCCCC1)=O | C31H35F3N4O5
reactant | p-toluenesulfonic acid | 0.20 mmol, 38 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 5 mL | CO | CH4O
product | (4S,5R)-4-(3,4-difluorophenyl)-5-hydroxymethyl-2-oxo-oxazolidine-3-carboxylic acid {3-[4-(2-cyano-4-fluorophenyl)piperidin-1-yl]propyl}amide | C(#N)C1=C(C=CC(=C1)F)C1CCN(CC1)CCCNC(=O)N1C(O[C@H]([C@@H]1C1=CC(=C(C=C1)F)F)CO)=O | C26H27F3N4O4
